Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
RUQ/back pain

 
Major Surgical or Invasive Procedure:
ERCP with sphincterotomy of Choledochoduodenal fistula and 
biliary stent was placed successfully.  

 
History of Present Illness:
Pt is a ___, 20wks pregnant, who presented to ___ today with c/o severe RUQ/epigastric pain which 
radiates
to her middle back with acute onset at 3:30 this am.  Had much
milder episodes in the past, none lasting more than ___ hours. 
She had a negative EGD about ___ year ago for these complaints.

This episode, however, did not resolve and was ___.  She
vomited once yesterday & twice today.  Is not currently
nauseated.  Pain has decreased with pain meds.  Has noticed her
urine is much darker also.  

Presented to ___ today with the above complaints,
and was transfered to ___ for likely ERCP.

Reports no problems with the pregnancy.  Denies F/C/CP/SOB.

 
Past Medical History:
1. ?asthma (no symptoms currently)
2. G1P0

 
Social History:
Married lives with husband.

 
Physical Exam:
99.0 80 102/54 16 99%RA
NAD, jaundiced, icteric
CTA B/L
RRR
Abd soft, NT, ND. Gravid uterus
No ___ edema

 
Pertinent Results:
___ 08:45PM BLOOD WBC-13.0* RBC-3.47* Hgb-9.9* Hct-28.8* 
MCV-83 MCH-28.6 MCHC-34.4 RDW-14.3 Plt ___
___ 06:30AM BLOOD WBC-6.8 RBC-3.26* Hgb-9.6* Hct-28.2* 
MCV-87 MCH-29.3 MCHC-33.9 RDW-14.1 Plt ___
___ 06:20AM BLOOD Glucose-79 UreaN-5* Creat-0.5 Na-141 
K-4.1 Cl-111* HCO3-23 AnGap-11
___ 08:45PM BLOOD ALT-131* AST-136* AlkPhos-120* 
TotBili-4.3* DirBili-3.5* IndBili-0.8
___ 06:30AM BLOOD ALT-72* AST-57* AlkPhos-120* Amylase-647* 
TotBili-4.1*
___ 08:45PM BLOOD Lipase-29
___ 06:30AM BLOOD Lipase-1002*
___ 06:20AM BLOOD Albumin-2.9* Calcium-7.6* Phos-2.2* 
Mg-2.0
___ 08:45PM BLOOD ___
.
Radiology Report LIVER OR GALLBLADDER US (SINGLE ORGAN) Study 
Date of ___ 9:00 ___ 
IMPRESSION: 
1. Cholelithiasis, with gallbladder wall thickening and edema. 
However, no 
gallbladder distension or pericholecystic fluid to indicate 
acute 
cholecystitis identified. 
2. No common bile duct stone or intrahepatic biliary dilatation 
visualized. 
An MRCP could be obtained for further evaluation as clinically 
indicated. 
2. Mild fullness of the collecting system on the right partially 
imaged. This is likely related to pregnancy. 
.
ERCP
Impression: Choledochoduodenal fistula consistent wih recent 
passage of stones 
Fistulotomy with a sphincterotome through the choledochoduodenal 
fistula 
Sludge and pus was extracted successfully using a 8.5 mm RX 
balloon  
.

___ 06:45AM BLOOD ALT-54* AST-39 AlkPhos-112 Amylase-110* 
TotBili-2.5*
___ 06:45AM BLOOD Lipase-51
 
Brief Hospital Course:
This is a ___, 20wks pregnant, with abdominal pain, 
Cholelithiasis and
obstructive jaundice. She was admitted, keep NPO with IV Abx.  
An ERCP consult was obtained and we followed her labs. Her Tbili 
was 4.3 on admission and was 4.4 the next day. 
She went for ERCP on ___ and this showed: 
Choledochoduodenal fistula consistent wih recent passage of 
stones 
Fistulotomy with a sphincterotome through the choledochoduodenal 
fistula 
Sludge and pus was extracted successfully using a 8.5 mm RX 
balloon catheter 
7 cm by ___ FR Cotton stent placement into common bile duct

The next day her labs indicated post-ERCP pancreatitis. Her 
abdomen was only mildly tender and she clinically looked well. 
Due to her elevated Amylase and Lipase to ___, she was made 
NPO and started on IVF.

On HD 4, she was started back on clears and her Amylase/Lipase 
trended down to 110/51. 

She was discharged in good condition, tolerating a diet, with 
minimal pain.

 
Medications on Admission:
prenatal vit 
 
Discharge Medications:
1. Amoxicillin-Pot Clavulanate 875-125 mg Tablet Sig: One (1) 
Tablet PO BID (2 times a day) for 9 days.
Disp:*18 Tablet(s)* Refills:*0*
2. Prenatal  Oral

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain
Acute Biliary Obstruction
Choledochoduodenal fistula.
Post-ERCP Pancreatitis

 
Discharge Condition:
good
Plan for postpartum lap chole and stent removal.
 
Discharge Instructions:
Please call your doctor or return to the ER for any of the 
following:
* If you are vomiting and cannot keep in fluids or your 
medications.
* You are getting dehydrated due to continued vomiting, diarrhea 
or other reasons. 
* Signs of dehydration include dry mouth, rapid heartbeat or 
feeling dizzy or faint when standing.
* You see blood or dark/black material when you vomit or have a 
bowel movement.
* Your pain is not improving within ___ hours or not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or is changing location or moving to your chest or 
back.
* You have shaking chills, or a fever greater than 101.5 (F) 
degrees or 38(C) degrees.
* Any serious change in your symptoms, or any new symptoms that 
concern you. 
.
* Take all new meds as ordered.
* Continue to increase activity daily 

 
Followup Instructions:
___